US06169090A
1-(7-Methoxyfuro[2,3-c]pyridin-2-yl)ethanol
A solution of 7-methoxyfuro[2,3-c]pyridine (1.5 g) in dry tetrahydrofuran (50 ml) was stirred at −78° C. under dry nitrogen. n-Butyllithium (1.6N solution in hexanes, 6.9 ml) was added dropwise and the resulting solution stirred at −78° C. for 60 minutes. Acetaldehyde (5.7 ml) was added and stirring continued at −78° C. for 90 minutes before warming to room temperature. The mixture was diluted with water (100 ml) and extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried over magnesium sulfate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 50% hexane in ethyl acetate gave the title compound (1.8 g) as a brown oil.

reactant | 7-methoxyfuro[2,3-c]pyridine | 1.5 g | COC=1N=CC=C2C1OC=C2 | C8H7NO2
reactant | n-Butyllithium | 1.6N, 6.9 ml | C(CCC)[Li]
reactant | Acetaldehyde | 5.7 ml | C(C)=O | C2H4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 1-(7-Methoxyfuro[2,3-c]pyridin-2-yl)ethanol | 1.8 g | COC=1N=CC=C2C1OC(=C2)C(C)O | C10H11NO3
